US06767906B2
15.8 g (38.5 mmol) of 3-[9-ethyl-2-(trans-4-hydroxy-cyclohexylamino)-9H-purin-6-yl-amino]-benzoic acid methyl ester is suspended in 400 ml of MeOH, 77 ml of H2O and 77 ml of LiOH solution (1M), and stirred for 75 min at 80° C. After completion, the MeOH is removed under reduced pressure and the aqueous layer is washed with EtOAc (2 fold). The aqueous layer is then slowly treated with 1N HCl solution to pH 4-4.5. The precipitate is filtered off and washed to neutral pH to obtain 13.2 g (87% yield) of 3-[9-ethyl-2-(trans-4-hydroxy-cyclohexylamino)-9H-purin-6-yl-amino]-benzoic acid; Rf=0.34; (CH3Cl/MeOH/H2O/CH3COOH 85/13/1.5/0.5); m.p. 317° C.; ESI-MS: 397 (M+H)+.

reactant | 3-[9-ethyl-2-(trans-4-hydroxy-cyclohexylamino)-9H-purin-6-yl-amino]-benzoic acid methyl ester | 38.5 mmol, 15.8 g | COC(C1=CC(=CC=C1)NC1=C2N=CN(C2=NC(=N1)N[C@@H]1CC[C@H](CC1)O)CC)=O | C21H26N6O3
reactant | H2O | 77 ml | O | H2O
reactant | LiOH | 1M, 77 ml | [Li+].[OH-]
solvent | MeOH | 400 ml | CO | CH4O
product | 3-[9-ethyl-2-(trans-4-hydroxy-cyclohexylamino)-9H-purin-6-yl-amino]-benzoic acid | 13.2 g, 87% yield | C(C)N1C2=NC(=NC(=C2N=C1)NC=1C=C(C(=O)O)C=CC1)N[C@@H]1CC[C@H](CC1)O | C20H24N6O3
